US05041462
Preparation of 2-(acetoxyacetylamino)-6-nitrobenzonitrile:
A solution of 2-amino-6-nitrobenzonitrile (6.5 g) in pyridine (100 ml) is cooled in an ice bath and thereto is added dropwise acetoxyacetyl chloride (4.4 ml). The mixture is stirred at room temperature for 1 hour, and thereafter, pyridine is distilled off under reduced pressure, and then water is added thereto, and the mixture is extracted with methylene chloride. The organic layer is washed with 1N hydrochloric acid and dried over anhydrous sodium sulfate, and the solvent is distilled off under reduced pressure. The resulting crude crystals are recrystallized from ethanol to give the title compound (5.8 g) having the following physical properties.

reactant | 2-amino-6-nitrobenzonitrile | 6.5 g | NC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H5N3O2
reactant | acetoxyacetyl chloride | 4.4 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-(acetoxyacetylamino)-6-nitrobenzonitrile | 5.8 g | C(C)(=O)OCC(=O)NC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C11H9N3O5
